US20010049385A1
A mixture of 4,5,6,7-tetrahydro-1H-benzimidazole-5-acetic acid (2.2 g, 10 mmol) and ethanol (40 ml) was placed on an ice-bath and thionylchloride (1.78 g, 15 mmol) was added dropwise. When addition was complete, the mixture was stirred for 30 minutes and then heated at reflux for 5 hours. The solvent was evaporated and the residue was re-evaporated with acetonitrile and then stirred with acetonitrile (40 ml) and triethylamine (1.5 ml). The resulting mixture was filtered and the solid was discarded. From the filtrate the solvent was evaporated to give crude 4,5,6,7-tetrahydro-1H-benzimidazole-5-acetic acid ethyl ester. This ester was dissolved in acetonitrile (40 ml) and triethylamine (1.5 ml, 11 mmol) was added followed by portionwise addition of triphenylmethylchloride (2.8 g, 10 mmol). When addition was complete the mixture was stirred overnight at ambient temperature. The mixture was filtered and from the filtrate the solvent was evaporated. The residue was dissolved in ethyl acetate (25 ml) and left for crystallisation. The solid formed was isolated and discarded and from the filtrate the solvent was evaporated. The residue was dissolved in THF (40 ml) and the mixture was placed under an atmosphere of nitrogen. 1 N Lithiumaluminium hydride in THF (6 ml, 6 mmol) was added dropwise. When addition was complete the mixture was stirred at ambient temperature for 3 hours. The mixture was quenched with small amounts of water and 4 N Sodium hydroxide and ethyl acetate was added (50 ml). The solid was removed by filtration and the filtrate was dried (magnesium sulphate). The solvent was evaporated to give a residue that was crystallised from ethyl acetatete (20 ml). This afforded 1.3 g (32%) of 2-(1(3)-triphenylmethyl-4,5,6,7-tetrahydro-1H-benzimidazol-5-yl)ethanol.

reactant | 4,5,6,7-tetrahydro-1H-benzimidazole-5-acetic acid | 10 mmol, 2.2 g | N1C=NC2=C1CCC(C2)CC(=O)O | C9H12N2O2
reactant | thionylchloride | 15 mmol, 1.78 g | S(=O)(Cl)Cl | Cl2OS
reactant | ethanol | 40 ml | C(C)O | C2H6O
product | 4,5,6,7-tetrahydro-1H-benzimidazole-5-acetic acid ethyl ester | C(C)OC(CC1CC2=C(NC=N2)CC1)=O | C11H16N2O2
